US07470680B2
tert-butyl 4-(4-carbamoyl-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate.
1-(1-(tert-Butoxycarbonyl)piperidin-4-yl)-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid (355 mg, 1.140 mmol) was dissolved in a mixture of tetrahydrofuran (20 mL,) and N,N-dimethylformamide (15 μl, 0.194 mmol). Mixture was cooled to −10° C. Oxalyl chloride (150 μL, 1.714 mmol) was added to the mixture drop-wise. Reaction mixture was warmed to room temperature and held with stirring for 1 hour. Another 60 μL of oxalyl chloride was added to the mixture. Reaction stirred at room temperature for 30 minutes. Mixture was cooled to −10° C. Ammonia gas was bubbled through the mixture for 5 minutes. Reaction was held at −10° C. with stirring for 30 minutes. Mixture was warmed to room temperature and then diluted with water. Material was extracted three times with ethyl acetate and the aqueous phase was discarded. Material was washed with brine and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as off-white solid in 79% yield. MS (M−H)−=309.2.

reactant | 1-(1-(tert-Butoxycarbonyl)piperidin-4-yl)-2-oxo-2,3-dihydro-1H-imidazole-4-carboxylic acid | 1.140 mmol, 355 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(NC(=C1)C(=O)O)=O | C14H21N3O5
reactant | N,N-dimethylformamide | 0.194 mmol, 15 μl | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 1.714 mmol, 150 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 60 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl 4-(4-carbamoyl-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 79% yield | C(N)(=O)C=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N4O4
